US06271238B1
(5) 4-Allyl-2-ethyloxycarbonyl-3-oxo-5-phenyl-3,4-dihydropyrazine
2-Ethyloxycarbonyl-3-hydroxy-5-phenylpyrazine (214.4 mg, 0.88 mmol) was dissolved in dimethylformamide (2.1 ml), and sodium hydride (60% in oil, 42.1 g, 1.05 mmol) was added to it under cooling on ice and stirred for 30 minutes. After allyl bromide (0.11 ml, 1.32 mmol was added, the mixture was stirred at room temperature for 1 hour and then at 80° C. for 1 hour. The reaction solution was left to be cooled to room temperature, thereafter the reaction was terminated by adding distilled water, and the product was extracted twice with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the drying agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) whereby the title compound was obtained (24 mg, 9.6% yield).

reactant | 2-Ethyloxycarbonyl-3-hydroxy-5-phenylpyrazine | 0.88 mmol, 214.4 mg | C(C)OC(=O)C1=NC=C(N=C1O)C1=CC=CC=C1 | C13H12N2O3
reactant | sodium hydride | 1.05 mmol, 42.1 g | [H-].[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 2.1 ml | CN(C=O)C | C3H7NO
product | 4-Allyl-2-ethyloxycarbonyl-3-oxo-5-phenyl-3,4-dihydropyrazine | 9.6% yield | C(C=C)N1C(C(=NC=C1C1=CC=CC=C1)C(=O)OCC)=O | C16H16N2O3
